US07691854B2
Ethyl(2Z)-2-cyano-3-(4-cyanophenyl)-2-propenoate
Ethyl cyanoacetate (2.59 g, 22.88 mmol) and 4-formylbenzonitrile (3.0 g, 22.88 mmol) are dissolved in ethanol (100 ml). Piperidine (100 mg, 1.14 mmol) is added, and the reaction mixture is stirred at room temperature for 2 hours. The solvent is removed in vacuo, and the residue is purified by column chromatography on silica with cyclohexane/ethyl acetate mixtures as eluent.

reactant | Ethyl cyanoacetate | 22.88 mmol, 2.59 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | 4-formylbenzonitrile | 22.88 mmol, 3.0 g | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | Piperidine | 1.14 mmol, 100 mg | N1CCCCC1 | C5H11N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl(2Z)-2-cyano-3-(4-cyanophenyl)-2-propenoate | C(#N)/C(/C(=O)OCC)=C/C1=CC=C(C=C1)C#N | C13H10N2O2
